US09328118B2
Zinc (29 mg), 2-(di-tert-butylphosphino)biphenyl (59 mg), zinc cyanide (63 mg), and palladium (II) trifluoroacetate (30 mg) were added to a solution of tert-butyl 4-{2-[4-(2-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate (480 mg) in DMAc (10 mL) at room temperature in an argon atmosphere, and the mixture was stirred at 110° C. for 5 hours. After the reaction mixture was cooled to room temperature, EtOAc was added thereto, followed by stirring, and the insoluble material was separated by filtration using Celite. This filtrate was washed with a saturated aqueous NaHCO3 solution, water, and saturated brine. The organic layer was dried over MgSO4 and filtered, and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (Hex:EtOAc=9:1 to 1:1), whereby tert-butyl 4-{2-[4-(2-cyano-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate (236 mg) was obtained as a light yellow solid.

reactant | 2-(di-tert-butylphosphino)biphenyl | 59 mg | C(C)(C)(C)P(C1=C(C=CC=C1)C1=CC=CC=C1)C(C)(C)C | C20H27P
reactant | tert-butyl 4-{2-[4-(2-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate | 480 mg | ClC=1N=C(C2=C(N1)N(C=C2)C)C2=CC(=C(OCCC1CCN(CC1)C(=O)OC(C)(C)C)C=C2)C(F)(F)F | C26H30ClF3N4O3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | DMAc | 10 mL | CC(=O)N(C)C | C4H9NO
catalyst | Zinc | 29 mg | [Zn] | Zn
catalyst | zinc cyanide | 63 mg | [C-]#N.[Zn+2].[C-]#N
catalyst | palladium (II) trifluoroacetate | 30 mg | FC(C(=O)[O-])(F)F.[Pd+2].FC(C(=O)[O-])(F)F
product | tert-butyl 4-{2-[4-(2-cyano-7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-2-(trifluoromethyl)phenoxy]ethyl}piperidine-1-carboxylate | 236 mg | C(#N)C=1N=C(C2=C(N1)N(C=C2)C)C2=CC(=C(OCCC1CCN(CC1)C(=O)OC(C)(C)C)C=C2)C(F)(F)F | C27H30F3N5O3
